US04264505
2-[β-(1-pyrrolidinyl)ethylthio]phenyl-N-phenylbenzimidate hydrochloride
A solution of 5.5 gms (0.025 mole) of 2-[β-(1-pyrrolidinyl)ethylthio]phenol and 5.3 gms (0.025 mole) of N-phenylbenzimidoyl chloride in 50 ml acetone was stirred at room temperature for a period of two hours. The desired product crystallized out. It was filtered, washed with acetone and dried at room temperature. Recrystallization from isopropanol yielded 6.0 gms (55%) of product, M.P. 167°-9° C.

reactant | 2-[β-(1-pyrrolidinyl)ethylthio]phenol | 0.025 mole, 5.5 gms | N1(CCCC1)CCSC1=C(C=CC=C1)O | C12H17NOS
reactant | N-phenylbenzimidoyl chloride | 0.025 mole, 5.3 gms | C1(=CC=CC=C1)N=C(C1=CC=CC=C1)Cl | C13H10ClN
reactant | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-[β-(1-pyrrolidinyl)ethylthio]phenyl-N-phenylbenzimidate hydrochloride | 6.0 gms, 55% | Cl.N1(CCCC1)CCSC1=C(C=CC=C1)C1=C(C(O)=NC2=CC=CC=C2)C=CC=C1 | InChI=1S/C25H26N2OS.ClH/c28-25(26-20-10-2-1-3-11-20)23-14-5-4-12-21(23)22-13-6-7-15-24(22)29-19-18-27-16-8-9-17-27;/h1-7,10-15H,8-9,16-19H2,(H,26,28);1H
